US09284331B2
2-(3-chloro-2-methoxyphenyl)ethanamine
1-(bromomethyl)-3-chloro-2-methoxybenzene. A mixture of 4-chloro-2-methoxy-1-methylbenzene (26.5 g, 169 mmol), NBS (33.1 g, 186 mmol) and benzoyl peroxide (200 mg, 0.826 mmol) in CHCl3 was heated to reflux for 24 h. The reaction was allowed to cool to RT and then concentrated in vacuo. The residue was stirred with petroleum ether and the resulting suspension was filtered off and the filtrate was concentrated in vacuo to give the title compound (30.9 g) as brown oil, which was used as it is in the next step. UPLC (2 min) rt 1.708 min.

reactant | 1-(bromomethyl)-3-chloro-2-methoxybenzene | BrCC1=C(C(=CC=C1)Cl)OC | C8H8BrClO
reactant | 4-chloro-2-methoxy-1-methylbenzene | 169 mmol, 26.5 g | ClC1=CC(=C(C=C1)C)OC | C8H9ClO
reactant | NBS | 186 mmol, 33.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | benzoyl peroxide | 0.826 mmol, 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-(3-chloro-2-methoxyphenyl)ethanamine | 30.9 g | ClC=1C(=C(C=CC1)CCN)OC | C9H12ClNO
